US05789403
(2S*,5S*)-N-Acetyl-5-methylpiperidine-2-carboxylic acid
15.9 g (111 mmol) of the (2S*,5S*)-5-methylpiperidine-2-carboxylic acid described above was dissolved in 220 ml of a dichloromethane/water (1:1). 93.3 g (1.11 mol) of sodium hydrogencarbonate and 21.0 ml (222 mmol) of acetic anhydride were added thereto in this order at room temperature, followed by stirring for 3 days. The reaction solution was poured into 6N-hydrochloric acid under cooling with ice, and the extraction with chloroform was conducted. Then, the organic layer was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated in a reduced pressure to give 20.1 g of the title compound as a colorless oil. Yield 98%.

reactant | (2S*,5S*)-5-methylpiperidine-2-carboxylic acid | 111 mmol, 15.9 g | C[C@H]1CC[C@H](NC1)C(=O)O | C7H13NO2
reactant | sodium hydrogencarbonate | 1.11 mol, 93.3 g | C(O)([O-])=O.[Na+]
reactant | acetic anhydride | 222 mmol, 21.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane water | 220 ml | ClCCl.O
product | (2S*,5S*)-N-Acetyl-5-methylpiperidine-2-carboxylic acid | 20.1 g, Yield 98% | C(C)(=O)N1[C@@H](CC[C@@H](C1)C)C(=O)O | C9H15NO3
